US09315521B2
To a solution of 3.0 M methyl magnesium bromide in diethyl ether (1.3 mL, 3.86 mmol) dissolved in anhydrous THF (4 mL) was added diethyl amine in anhydrous THF (1 mL). The mixture was stirred for 15 minutes at 40° C. Then, 3-chloro-4-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzonitrile (375 mg, 1.3 mmol) was added and stirred at 40° C. for 3.5 hours. The solvent was evaporated, and the residue was dissolved in DCM and purified on silica gel using 20% DCM/MeOH to afford 3-chloro-N,N-diethyl-4-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzene-1-carboximidamide (111 mg, 15% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.15 (t, J=7.9 Hz, 6H), 2.21 (s, 3H), 2.90 (q, J=7.2 Hz, 4H), 4.51 (s, 2H), 6.0 (bs, 1H), 7.51-7.54 (m, 1H), 7.81-7.84 (m, 2H); LRMS (ES+) m/z 365 (100%, M+1).

reactant | methyl magnesium bromide | 3.0 M | C[Mg]Br
reactant | diethyl ether | 3.86 mmol, 1.3 mL | C(C)OCC | C4H10O
reactant | diethyl amine | C(C)NCC | C4H11N
reactant | 3-chloro-4-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzonitrile | 1.3 mmol, 375 mg | ClC=1C=C(C#N)C=CC1CSC1=NC(=CC(=N1)O)C | C13H10ClN3OS
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 3-chloro-N,N-diethyl-4-{[(4-hydroxy-6-methylpyrimidin-2-yl)sulfanyl]methyl}benzene-1-carboximidamide | 111 mg, 15% yield | ClC=1C=C(C=CC1CSC1=NC(=CC(=N1)O)C)C(N(CC)CC)=N | C17H21ClN4OS
